* DC multi-source series mesh — Schaum's Fig. 3-27
V1 n1 0 DC 21.2
R1 n1 a 5
R2 a nc 1
V2 nc nd DC 31.1
R3 nd ne 4
V3 b ne DC 18
V4 nf b DC 14.6
R4 nf 0 2
.op
.print dc V(a) V(b)
.end